US04350695
STEP A: 2-chloro-4-hydroxy-6-nitro-quinazoline
A cooled mixture of 70 ml of concentrated sulfuric acid and 35 ml of concentrated nitric acid was added dropwise to a cooled, stirred solution of 90 g of 2-chloro-4-hydroxyquinazoline [J. Chem. Soc., 1947, p. 775] in 270 ml of concentrated sulfuric acid at a rate such that the temperature remained at 5°-10° C. Stirring was continued until the reaction mixture reached room temperature, whereupon it was poured into crushed ice. The 2-chloro-4-hydroxy-6-nitro-quinazoline thus precipitated is filtered off, washed well with water and used directly in the next step.

reactant | nitric acid | 35 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2-chloro-4-hydroxyquinazoline | 90 g | ClC1=NC2=CC=CC=C2C(=N1)O | C8H5ClN2O
solvent | sulfuric acid | 270 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 70 ml | S(O)(O)(=O)=O | H2O4S
product | 2-chloro-4-hydroxy-6-nitro-quinazoline | ClC1=NC2=CC=C(C=C2C(=N1)O)[N+](=O)[O-] | C8H4ClN3O3
